US06417193B1
N-t-Butyloxycarbonyl-N′-(3-[2-Chloro-6-Fluorophenyl]-5-Methylisoxazol-4-oyl)-1,6-Diaminohexane
N-t-butyloxycarbonyl-1,6-diaminohexane hydrochloride salt (1.02 g, 4.03 mmol) and 3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-oyl chloride (1.11 g, 4.03 mmol) were converted to 1.84 g of the title compound by the procedure of Preparation 1. (100%). EA calculated for: C22H29N3O4ClF: C, 58.21; H, 6.44; N, 9.26. Found: C, 57.97; H, 6.20; N, 9.43. MS(IS) m/z 454 (M+)

reactant | N-t-butyloxycarbonyl-1,6-diaminohexane hydrochloride salt | 4.03 mmol, 1.02 g | Cl.C(C)(C)(C)OC(=O)NCCCCCCN
reactant | 3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-oyl chloride | 4.03 mmol, 1.11 g | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
product | N-t-Butyloxycarbonyl-N′-(3-[2-Chloro-6-Fluorophenyl]-5-Methylisoxazol-4-oyl)-1,6-Diaminohexane | 1.84 g | C(C)(C)(C)OC(=O)NCCCCCCNC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl | C22H29ClFN3O4
